US07531577B2
N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide is dissolved in methylene chloride and pyridine, and the mixture is cooled in an ice bath. Methanesulfonyl chloride is added dropwise, and the reaction mixture is stirred at ice bath temperature, then allowed to warm to room temperature. The reaction mixture is quenched by addition of water and extracted with methylene chloride. The organic layer is washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to give N-[5-(Methanesulfonylamino-methyl)-naphthalen-2-yl]-benzenesulfonamide. 5-(Methanesulfonylamino-methyl)-naphthalene-2-sulfonic acid phenylamide may be similarly prepared.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[5-(Methanesulfonylamino-methyl)-naphthalen-2-yl]-benzenesulfonamide | CS(=O)(=O)NCC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C18H18N2O4S2
